US04678803
Production of (2R)-3-(o-nitrobenzenesulfonyloxy)-1,2-epoxypropane
14.90 g of the diol compound obtained in (A) above was dissolved in 150 ml of tetrahydrofuran, and with ice cooling, 6.49 g of sodium methoxide was added. The mixture was stirred for 2 hours. To the reaction mixture was added 27.8 ml of triethylamine, and a solution of 22.2 g of o-nitrobenzenesulfonyl chloride in 50 ml of tetrahydrofuran was added dropwise. The mixture was stirred overnight. The reaction mixture was filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography [solvent: benzene-chloroform (2:1)] to give 7.31 g (yield 46.6%) of the desired compound as a pale yellow viscous oil.

reactant | sodium methoxide | 6.49 g | C[O-].[Na+]
reactant | triethylamine | 27.8 ml | C(C)N(CC)CC | C6H15N
reactant | o-nitrobenzenesulfonyl chloride | 22.2 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2R)-3-(o-nitrobenzenesulfonyloxy)-1,2-epoxypropane | 7.31 g, yield 46.6% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OC[C@H]1CO1 | C9H9NO6S
